US06197552B1
The washed cells described above were added to 50 mM Tris-HCl buffer (pH 7.2) containing 20.0 g/l 2,6-diaminopurine-2′-deoxyriboside to a concentration of 5 g/l and reacted at 30° C. for 3 hours while keeping pH at 7.2. The concentration of 2′-deoxyguanosine produced in the reaction solution was measured by high performance liquid chromatography. The result showed that the concentration was 19.8 g/l (conversion molar yield: 99%), respectively.

reactant | Tris-HCl | 50 mM, pH 7.2 | C(C(CO)(CO)N)O.Cl
reactant | 2,6-diaminopurine-2′-deoxyriboside | C1[C@@H]([C@H](O[C@H]1N2C=NC3=C2N=C(N=C3N)N)CO)O | C10H14N6O3
product | 2′-deoxyguanosine | yield: 99% | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C10H13N5O4
